US04245107
368 mg. of phenylsulfinylacetic acid and methyl 7-amino-3-azidomethyl-3-cephem-4-carboxylate were reacted in the same manner as described in Example 4 and 503 mg. of methyl 7-(phenylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylate were obtained.

reactant | phenylsulfinylacetic acid | C1(=CC=CC=C1)S(=O)CC(=O)O | C8H8O3S
reactant | methyl 7-amino-3-azidomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)OC)C1=O | C9H11N5O3S
product | methyl 7-(phenylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylate | C1(=CC=CC=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)OC)C1=O | C17H17N5O5S2
